US04547524
6.5 g of 1-methoxycarbonyl-2-isopropylidene hydrazine (prepared from methoxycarbonyl hydrazine and acetone), 5.3 g of triethylamine and 100 ml of acetone were placed in a 200 ml round-bottom flask, and while stirring with ice-water cooling, 11.0 g of p-bromobenzoyl chloride was added dropwise. Thereafter, the resulting mixture was stirred at room temperature for one hour to complete the reaction. The reaction mixture was added with 50 ml each of benzene and water. The separated organic layer was taken out by fractionation, dried with anhydrous sodium carbonate and then distilled to remove the solvent. The white crystalline mass thus obtained was recrystallized from a mixed solvent of hexane/acetone to yield 13.6 g (87%) of 1-p-bromobenzoyl-1-methoxycarbonyl-2-isopropylidene hydrazine as white crystals having a melting point of 103°-104° C.

reactant | 1-methoxycarbonyl-2-isopropylidene hydrazine | 6.5 g | COC(=O)NN=C(C)C | C5H10N2O2
reactant | triethylamine | 5.3 g | C(C)N(CC)CC | C6H15N
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | p-bromobenzoyl chloride | 11.0 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | water | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-p-bromobenzoyl-1-methoxycarbonyl-2-isopropylidene hydrazine | 13.6 g, 87% | BrC1=CC=C(C(=O)N(N=C(C)C)C(=O)OC)C=C1 | C12H13BrN2O3
